US07947834B2
2.75 g of the tert-butyl ester of 3,4-dihydro-1(2H)-quinoxalinecarbamic acid, 117 ml of dichloromethane and 5.8 ml of diisopropylethylamine are placed in a 500 ml round-bottomed flask under a nitrogen atmosphere. 1.74 g of triphosgene are added at 0° C. and then the reaction mixture is left stirring at ambient temperature for three hours. 2 ml of diisopropylethylamine and 1.83 g of 3-(pyrrolidin-3-yl)pyridine are subsequently added and the reaction mixture is stirred for eighteen hours. 200 ml of a saturated aqueous sodium hydrogencarbonate solution are added and then the aqueous phase is extracted three times with dichloromethane. The organic phases are combined and dried over sodium sulfate and the solvent is evaporated under reduced pressure. The residue is chromatographed on silica gel with a dichloromethane/methanol 95/5 mixture. 3.72 g of tert-butyl 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxylate are obtained.

reactant | 3,4-dihydro-1(2H)-quinoxalinecarbamic acid | N1(CCNC2=CC=CC=C12)NC(=O)O | C9H11N3O2
reactant | diisopropylethylamine | 5.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 1.74 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylethylamine | 2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(pyrrolidin-3-yl)pyridine | 1.83 g | N1CC(CC1)C=1C=NC=CC1 | C9H12N2
reactant | sodium hydrogencarbonate | 200 ml | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 117 ml | ClCCl | CH2Cl2
product | tert-butyl 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxylate | 3.72 g | N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C23H28N4O3
